### PR TITLE
Formalization of Succinctness

### PR DESCRIPTION
**Pull request by ibbem**
This is the formalization of succinctness as advertised in my master thesis "On the Succinctness of
Languages for Static Variability".

Note that there are merge conflicts between `thesis_bm` and `main`. Hence, this branch already includes the merge to `main` and should be merged using a fast-forward merge.

### CODE REVIEW

File: src/Vatras/Framework/Definitions.agda [hunk 1]
```diff
@@ -20,12 +23,13 @@ the core definitions because it is quite reasonable.
...
 nodes of an abstract syntax tree) can be checked for equality.
 -}
-𝔸 : Set₁
-𝔸 = Σ Set DecidableEquality
-
--- retrieve the set of atoms from an atom type 𝔸
-atoms : 𝔸 → Set
-atoms = proj₁
+record 𝔸 : Set₁ where
+  no-eta-equality
```
Comment (pmbittner) [inline src/Vatras/Framework/Definitions.agda:28]: Maybe you could document here why eta equality must be forbidden?

File: src/Vatras/Framework/Definitions.agda [hunk 2]
```diff
@@ -63,14 +67,23 @@ and hence expressions are parameterized in the type of this atomic data.
...
+  { atoms = String
+  ; atomsEqual? = String._≟_
+  ; atomSize = String.length
+  }
 
-module _ where
-  open import Data.Nat using (ℕ; _≟_)
+NAT : 𝔸
+NAT = record
+  { atoms = ℕ × ℕ
```
Comment (pmbittner) [inline src/Vatras/Framework/Definitions.agda:91]: Could you document why there are two natural numbers? What is each number supposed to mean?

File: src/Vatras/Lang/2CC/FixedArtifactLength.agda [hunk 3]
```diff
@@ -0,0 +1,118 @@
...
+  with c D
+... | true = v ∷ vs₁ , vs₂ , consˡ partition , (c , v≡e) ∷ vs₁⊆e , vs₂⊆e
+... | false = vs₁ , v ∷ vs₂ , consʳ partition , vs₁⊆e , (c , v≡e) ∷ vs₂⊆e
+
+sum≤size2CC : ∀ {i : Size}
+  → (e : 2CC i A)
+  → (vs : List (Rose ∞ A))
+  → AllPairs (_≉_) vs
+  → All (_∈ ⟦ e ⟧) vs
+  → List.sum (List.map sizeRose vs) ≤ size2CC e
```
Comment (pmbittner) [inline src/Vatras/Lang/2CC/FixedArtifactLength.agda:84]: This seems rather counter-intuitive. A plain enumeration of trees is smaller absolute size than a single 2CC expression which potentially reduces duplication? Am I misreading this theorem? Could you add some documentation?

File: src/Vatras/Lang/FST/NoCoreFeature.agda [hunk 4]
```diff
@@ -0,0 +1,51 @@
...
+  where
+  open Eq.≡-Reasoning
+
+does-not-describe-variant : ¬ (Σ[ e ∈ SPL ] (⟦ e ⟧ ≅ variantGenerator))
+does-not-describe-variant (e , variant⊆e , e⊆variant) with variant⊆e (λ f → false) | lemma e
+does-not-describe-variant (e , variant⊆e , e⊆variant) | zero , e≡variant | a , e≡empty with Eq.trans (Eq.sym (proj₂ (Rose-injective e≡variant))) (proj₂ (Rose-injective e≡empty))
+does-not-describe-variant (e , variant⊆e , e⊆variant) | zero , e≡variant | a , e≡empty | ()
+
+FST-is-incomplete : Incomplete (Rose ∞) (FST.FSTL F)
+FST-is-incomplete complete = does-not-describe-variant (Prod.map₂ (≅-sym) (complete variantGenerator))
```
Comment (pmbittner) [inline src/Vatras/Lang/FST/NoCoreFeature.agda:76]: Maybe you could add a sentence of documentation to this module what the main insight is here. Is this the first (direct) proof of FST incompleteness?

File: src/Vatras/Translation/Lang/OC/DeadElim.agda [hunk 5]
```diff
@@ -0,0 +1,168 @@
...
+open import Size using (Size; ∞)
+
+open import Vatras.Util.AuxProofs using (true≢false)
+import Vatras.Util.List as List
+open import Vatras.Data.EqIndexedSet using (_≅[_][_]_; ≗→≅[]; _≅_; _⊆_)
+open import Vatras.Framework.Variants using (_-<_>-)
+open import Vatras.Lang.OC F using (OC; _-<_>-; _❲_❳; Configuration; ⟦_⟧ₒ)
+open import Vatras.Lang.OC.Util using (all-oc)
+
+data RestrictOptions {A : 𝔸} : {i : Size} → List F → OC i A → Set₁ where
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/OC/DeadElim.agda:40]: What does this do? Restrict options to not be in a given environment (i.e., list of options)?

File: src/Vatras/Translation/Lang/OC/DeadElim.agda [hunk 6]
```diff
@@ -0,0 +1,168 @@
...
+elimDead-preserves' env (a ❲ e ❳) c c-env≡true | yes a∈env | true = elimDead-preserves' env e c c-env≡true
+elimDead-preserves' env (a ❲ e ❳) c c-env≡true | yes a∈env | false = ⊥-elim (true≢false (All.lookup c-env≡true a∈env) c-a)
+elimDead-preserves' env (a ❲ e ❳) c c-env≡true | no a∉env with c a in c-a
+elimDead-preserves' env (a ❲ e ❳) c c-env≡true | no a∉env | true = elimDead-preserves' (a ∷ env) e c (c-a ∷ c-env≡true)
+elimDead-preserves' env (a ❲ e ❳) c c-env≡true | no a∉env | false = Eq.refl
+
+elimDead-preserves : {i : Size} → {A : 𝔸} → (e : OC i A) → ⟦ elimDead e ⟧ₒ ≅[ id ][ id ] ⟦ e ⟧ₒ
+elimDead-preserves e = ≗→≅[] (λ c → elimDead-preserves' [] e c [])
+
+-- TODO WFOC
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/OC/DeadElim.agda:97]: Is this TODO still up to date? It can stay here if it is.

File: src/Vatras/Lang/OC/DeadElim.agda [hunk 7]
```diff
@@ -0,0 +1,168 @@
...
+data RestrictOptions {A : 𝔸} : {i : Size} → List F → OC i A → Set₁ where
+  _-<_>- : ∀ {i} → {a : atoms A} → {cs : List (OC i A)} → (env : List F) → All (RestrictOptions env) cs → RestrictOptions env (a -< cs >-)
+  _❲_❳ : ∀ {i} → {f : F} → {c : OC i A} → {env : List F} → f ∉ env → RestrictOptions (f ∷ env) c → RestrictOptions env (f ❲ c ❳)
+
+data Undead {A : 𝔸} : {i : Size} → OC i A → Set₁ where
+  undead : {i : Size} → {env : List F} → {e : OC i A} → RestrictOptions env e → Undead e
+
+elimDead' : {i : Size} → {A : 𝔸} → (env : List F) → OC i A → Σ (OC ∞ A) (RestrictOptions env)
+elimDead' env (a -< cs >-) = a -< List.map proj₁ (List.map (elimDead' env) cs) >- , (env -< All.fromList (List.map (elimDead' env) cs) >-)
+elimDead' env (a ❲ c ❳) with a ∈? env
```
Comment (pmbittner) [inline src/Vatras/Lang/OC/DeadElim.agda]: It would be more consistent with the rest of the library to call variables of options `O` instead of `a` but this isn't too important.

File: src/Vatras/Translation/Lang/OC/DeadElim.agda [hunk 8]
```diff
@@ -0,0 +1,168 @@
...
+
+undead→≢ : {i : Size} → {A : 𝔸} → {f₁ f₂ : F} → {e : OC i A} → Undead (f₁ ❲ f₂ ❲ e ❳ ❳) → f₁ ≢ f₂
+undead→≢ (undead (f₁∉env ❲ f₂∉env ❲ undead-e ❳ ❳)) f₁≡f₂ = f₂∉env (here (Eq.sym f₁≡f₂))
+
+changeConfig : F → Bool → Configuration → Configuration
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/OC/DeadElim.agda:112]: What is this supposed to do? Can you recall the idea of this part of the preservation proof?

File: src/Vatras/Lang/PropOC.agda [hunk 9]
```diff
@@ -0,0 +1,37 @@
+open import Vatras.Framework.Definitions using (𝔽; ℂ; 𝔼)
+
+module Vatras.Lang.PropOC (F : 𝔽) where
```
Comment (pmbittner) [inline src/Vatras/Lang/PropOC.agda:8]: Maybe a short note that this module implements option calculus with propositional formulas as option values?

File: src/Vatras/Succinctness/Relations/2CC<ADT.agda [hunk 10]
```diff
@@ -0,0 +1,576 @@
...
+    suc n
+  ≡⟨ sizeRose-variants n bs ⟨
+    sizeRose (variants n bs)
+  ≡⟨ Eq.cong sizeRose v≡variants-bs ⟨
+    sizeRose v
+  ∎
+  where
+  open Eq.≡-Reasoning
+
+todo5 :
```
Comment (pmbittner) [inline src/Vatras/Succinctness/Relations/2CC<ADT.agda]: Should we keep these `todo...` names? Looks like you wanted to give hem a name?

File: src/Vatras/Succinctness/Relations/2CC=2CC.agda [hunk 11]
```diff
@@ -0,0 +1,153 @@
+module Vatras.Succinctness.Relations.2CC=2CC where
```
Comment (pmbittner) [inline src/Vatras/Succinctness/Relations/2CC=2CC.agda:7]: A short note what this module is about? The name is rather irritating :D

File: src/Vatras/Util/Big-O.agda [hunk 12]
```diff
@@ -0,0 +1,68 @@
+module Vatras.Util.Big-O where
+
+open import Data.Nat using (ℕ; zero; suc; _≤_; s≤s; z≤n; _*_; _^_)
+import Data.Nat.Properties as ℕ
+open import Data.Product using (_,_; Σ-syntax)
+open import Function using (id)
+import Relation.Binary.PropositionalEquality as Eq
+open import Relation.Unary using (_∈_)
```
Comment (pmbittner) [inline src/Vatras/Util/Big-O.agda:8]: I believe this module is more than just utility isn't it? Would it make sense to move it to the Succinctness module? What do you think? In any case, we can leave it here of course to save some work.

File: src/Vatras/Util/Nat/Diagonalization.agda [hunk 13]
```diff
@@ -0,0 +1,214 @@
+{-# OPTIONS --allow-unsolved-metas #-}
```
Comment (pmbittner) [inline src/Vatras/Util/Nat/Diagonalization.agda]: unsolved-metas still necessary?

File: src/Vatras/Util/Nat/Diagonalization.agda [hunk 14]
```diff
@@ -0,0 +1,214 @@
...
+open import Data.Nat using (ℕ; zero; suc; _+_; _∸_; _≤_; _<_; z≤n; s≤s; _≤?_)
+import Data.Nat.Properties as ℕ
+open import Data.Product as Product using (_×_; _,_; uncurry; Σ-syntax)
+open import Function using (_∘_; id; const)
+open import Relation.Binary.PropositionalEquality as Eq using (_≡_; refl; _≗_)
+open import Relation.Nullary.Decidable using (yes; no)
+
+import Vatras.Util.List as List
+
+diagonalization : ℕ × ℕ → ℕ
```
Comment (pmbittner) [inline src/Vatras/Util/Nat/Diagonalization.agda:33]: Can you add some documentation of what this diagonalization module is doing?

**Review by pmbittner — APPROVED** [review]
Hi @ibbem 

thank you for the PR. As always, it would be great to have some documentation here and there. I leave it up to you to decide how much time you want to invest. I have some comments below but would be willing to merge in any case.

File: src/Vatras/Framework/Definitions.agda (hunk 1 above)
Comment (ibbem) [reply src/Vatras/Framework/Definitions.agda:28]: I'm actually unsure why exactly this is needed. However, when changing `𝔸` from `data` to a `record`, there was a proof that failed suddenly. As far as I understand eta-equality, it should only increase expressiveness. Hence, this could potentially be a limitation of bug of Agda. However, we do not need eta-equality so I decided to just disable it (like it was before, with `data`).

File: src/Vatras/Lang/2CC/FixedArtifactLength.agda (hunk 3 above)
Comment (ibbem) [reply src/Vatras/Lang/2CC/FixedArtifactLength.agda:84]: The key requirement for this lemma is `AllPairs (_≉_) vs` which expresses that the number of top-level children of the variants `vs` are pairwise distinct. Thus choice calculus (without `let` or `macro`) cannot share any sub-expressions.

File: src/Vatras/Translation/Lang/OC/DeadElim.agda (hunk 6 above)
Comment (ibbem) [reply src/Vatras/Translation/Lang/OC/DeadElim.agda:97]: Yes, there might be use cases for adding a wrapper for undead `WFOC`.

File: src/Vatras/Translation/Lang/OC/DeadElim.agda (hunk 8 above)
Comment (ibbem) [reply src/Vatras/Translation/Lang/OC/DeadElim.agda:112]: This is not relevant for the preservation proof. Instead I used this lemma while trying to prove some succinctness property (essentially something like a translation to a minimal equivalent expression) about option calculus. However, I'm not sure if that approach is actually correct and it didn't have the time to work more on that proof.
Currently, this whole module is unused in Vatras. However, I still included it because I already did the work and it might become useful for somebody in the future.

File: src/Vatras/Succinctness/Relations/2CC<ADT.agda (hunk 10 above)
Comment (ibbem) [reply src/Vatras/Succinctness/Relations/2CC<ADT.agda]: Oh, ... Embarrassing 😅
I'll change these names.

File: src/Vatras/Util/Big-O.agda (hunk 12 above)
Comment (ibbem) [reply src/Vatras/Util/Big-O.agda:8]: My rational for putting it into the `Util` package is that, from the point of view of Vatras, plain big-O notation is just an existing mathematical framework that we make use of (i.e., it doesn't really belong to Vatras per-se). Just because, right now, Vatras has only one use case of big-O notation but it could, in theory, have a second use case outside of Succinctness. Then it wouldn't make sense to have big-O notation in the `Succinctness` module.

File: src/Vatras/Framework/Definitions.agda (hunk 1 above)
Comment (pmbittner) [reply src/Vatras/Framework/Definitions.agda:28]: I see :) Thank you for explaining it.

File: src/Vatras/Lang/2CC/FixedArtifactLength.agda (hunk 3 above)
Comment (pmbittner) [reply src/Vatras/Lang/2CC/FixedArtifactLength.agda:84]: Ah yes this makes total sense. Could you add the comment you made here as documentation? :)

File: src/Vatras/Translation/Lang/OC/DeadElim.agda (hunk 6 above)
Comment (pmbittner) [reply src/Vatras/Translation/Lang/OC/DeadElim.agda:97]: Ok then let's leave it here.

File: src/Vatras/Util/Big-O.agda (hunk 12 above)
Comment (pmbittner) [reply src/Vatras/Util/Big-O.agda:8]: This line of reasoning makes sense to me.

File: src/Vatras/Succinctness/Relations/2CC<ADT.agda (hunk 10 above)
Comment (pmbittner) [reply src/Vatras/Succinctness/Relations/2CC<ADT.agda]: Nothing to be ashamed about. :)

File: src/Vatras/Translation/Lang/OC/DeadElim.agda (hunk 8 above)
Comment (pmbittner) [reply src/Vatras/Translation/Lang/OC/DeadElim.agda:112]: Ok fine with me. Could you add this explanation as module documentation?

**Comment by ibbem** [comment]
I added all the requested [documentation](https://github.com/VariantSync/Vatras/commit/083283187d0506bbb62359e40c8a2d9a0170c7d9) and added my thesis in the [README](https://github.com/VariantSync/Vatras/commit/f324d067bdf8ad73fb75790018f15b0d1fafff0c).

File: src/Vatras/Lang/2CC/FixedArtifactLength.agda [hunk 15]
```diff
@@ -1,3 +1,8 @@
+{-|
+This module contains some lemmas that make the fact,
+that artifacts of choice calculus expressions have a fixed number of children
+usable.
```
Comment (pmbittner) [inline src/Vatras/Lang/2CC/FixedArtifactLength.agda]: What does it mean to "have a child usable"?

File: src/Vatras/Lang/FST/NoBaseArtifacts.agda [hunk 16]
```diff
@@ -1,3 +1,10 @@
+{-|
+Proof that feature structure trees do not contain a base artifact.
```
Comment (pmbittner) [inline src/Vatras/Lang/FST/NoBaseArtifacts.agda]: Feature structure trees do have a base artifact? There is a shared root onto which all trees are imposed, isn't it? Or did I get something wrong?

Comment (pmbittner) [reply src/Vatras/Lang/FST/NoBaseArtifacts.agda]: My understanding here is: The `SPL` type, which encodes expressions of this variability language, has an artifact and that artifact is the root of every produced variant. Isn't that a base artifact?

File: src/Vatras/Translation/Lang/OC/DeadElim.agda [hunk 17]
```diff
@@ -104,6 +142,9 @@ changeConfig-∉ f f∈env b c (f' ❲ e ❳) undead-e with f ≟ f'
 changeConfig-∉ {env = env} f f∈env b c (f' ❲ e ❳) (f'∉env ❲ undead-e ❳) | yes f≡f' = ⊥-elim (f'∉env (Eq.subst (_∈ env) f≡f' f∈env))
 changeConfig-∉ f f∈env b c (f' ❲ e ❳) (f'∉env ❲ undead-e ❳) | no f≢f' = Eq.cong (λ e → if c f' then e else nothing) (changeConfig-∉ f (there f∈env) b c e undead-e)
 
+{-|
+An option whoose dimensions is configured to `true` is semantically equivalent to its child.
```
Comment (pmbittner) [inline src/Vatras/Translation/Lang/OC/DeadElim.agda]: typo `whoose`

**Review by pmbittner — APPROVED** [review]
Thank you a lot for the documentation! I have a few last questions on the new documentation, and then we can merge. :)

File: README.md [hunk 18]
```diff
@@ -130,6 +130,14 @@ Details on the features implemented in Vatras, including tutorials for integrati
...
 
+### On the Succinctness of Languages for Static Variability
+
+[![Thesis](https://img.shields.io/badge/Thesis-PDF-purple)](https://doi.org/10.18725/OPARU-59127)
+
+> Benjamin Moosherr. _On the Succinctness of Languages for Static Variability_. Master Thesis, University of Ulm, November 2025. Reviewed by Matthias Tichy and Thomas Thüm. Supervised by Paul Maximilian Bittner.
+
+This Master thesis extends Vatras by a succinctness relation. Succinctness expresses how the size of expressions must change when translated using a variability language compiler. Hence, succinctness allows us to differentiate between variability languages which have equal semantic expressiveness but whose translation results in combinatorial explosion.
```
Comment (pmbittner) [inline README.md]: Great! I think it must be spelled `master thesis` in lower case here. 🤔

File: src/Vatras/Lang/2CC/FixedArtifactLength.agda (hunk 15 above)
Comment (ibbem) [reply src/Vatras/Lang/2CC/FixedArtifactLength.agda]: The lemma is more usable. I forgot a comma at the end of the line there.
I rewrote that sentence to be more understandable.

File: src/Vatras/Lang/FST/NoBaseArtifacts.agda (hunk 16 above)
Comment (ibbem) [reply src/Vatras/Lang/FST/NoBaseArtifacts.agda]: Right. There is always an artifact. Effectively, I mean that there is no core feature.
I renamed the module accordingly.
